US09126998B2
N-(2-Amino-2-methylpropyl)-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxamide
100 mg of 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid (0.31 mmol), 151 mg of (benzotriazol-1-yloxy)bisdimethylaminomethylium fluoroborate (TBTU, 0.47 mmol) and 127 mg of 4-methylmorpholine (1.26 mmol) were initially charged in 2 ml of DMF. 55 mg of 2-methylpropane-1,2-diamine (0.63 mmol) were then added, and the mixture was stirred at RT overnight. The reaction solution was purified by preparative HPLC (RP18 column, mobile phase: acetonitrile/water gradient with addition of 0.1% TFA). The crude product was taken up in ethyl acetate and washed twice with saturated aqueous sodium bicarbonate solution. The aqueous phase was extracted twice with ethyl acetate and the combined organic phases were dried over sodium sulphate. The mixture was then filtered and the filtrate was concentrated and lyophilized. This gave 80 mg of the title compound (66% of theory).

reactant | 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid | 0.31 mmol, 100 mg | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)O)C(=CC=C1)F | C16H12F2N2O3
reactant | (benzotriazol-1-yloxy)bisdimethylaminomethylium fluoroborate | 0.47 mmol, 151 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)O[C+](N(C)C)N(C)C
reactant | 4-methylmorpholine | 1.26 mmol, 127 mg | CN1CCOCC1 | C5H11NO
reactant | 2-methylpropane-1,2-diamine | 0.63 mmol, 55 mg | CC(CN)(C)N | C4H12N2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-(2-Amino-2-methylpropyl)-8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | NC(CNC(=O)C1=C(N=C2N1C=CC=C2OCC2=C(C=CC=C2F)F)C)(C)C | C20H22F2N4O2
